US07153854B2
A mixture of ethyl 4-(4-fluorophenyl)-2-isopropyl-7-vinylpyrrolo[1,2-b]pyridazine-3-carboxylate (8.9 g) and 10% palladium on carbon (900 mg) in ethanol (180 mL) was stirred under hydrogen atomosphere (3.5 atm) at ambient temperature. After 10 hours, the mixture was stood overnight. To the mixture was added 10% palladium on carbon (900 mg) and was stirred under hydrogen atomosphere (3.5 atm) at ambient temperature. After 12 hours, the mixture was stood overnight. To the mixture was added 10% palladium on carbon (900 mg) and was stirred under hydrogen atomosphere (3.5 atm) at ambient temperature for 8 hours. The mixture was filtered through Celite. The filtrate was concentrated in vacuo to give ethyl 7-ethyl-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazine-3-carboxylate as an yellow oil (9.0 g, 100.5%).

reactant | ethyl 4-(4-fluorophenyl)-2-isopropyl-7-vinylpyrrolo[1,2-b]pyridazine-3-carboxylate | 8.9 g | FC1=CC=C(C=C1)C=1C=2N(N=C(C1C(=O)OCC)C(C)C)C(=CC2)C=C | C21H21FN2O2
catalyst | palladium on carbon | 900 mg | [Pd] | Pd
solvent | ethanol | 180 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 900 mg | [Pd] | Pd
catalyst | palladium on carbon | 900 mg | [Pd] | Pd
product | ethyl 7-ethyl-4-(4-fluorophenyl)-2-isopropylpyrrolo[1,2-b]pyridazine-3-carboxylate | 9.0 g, 100.5% | C(C)C1=CC=C2N1N=C(C(=C2C2=CC=C(C=C2)F)C(=O)OCC)C(C)C | C21H23FN2O2
